US07423159B2
A mixture of 4-ethyl-1H-imidazole (2.46 g), 4-nitrobenzyl bromide (6.08 g), potassium carbonate (7.08 g) and N,N-dimethylformamide (50 ml) was stirred at room temperature for 14 hrs. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography to give 4-ethyl-1-(4-nitrobenzyl)-1H-imidazole (1.95 g) as a yellow oil from a fraction eluted with ethyl acetate-hexane (1:1, v/v). A mixture of 4-ethyl-1-(4-nitrobenzyl)-1H-imidazole (1.95 g), 10% palladium carbon (200 mg) and ethanol (50 ml) was stirred under a hydrogen atmosphere at room temperature for 4 hrs. Palladium carbon was removed from the reaction mixture by filtration, and the filtrate was concentrated. Recrystallization of the residue from ethyl acetate-hexane gave 1-(4-aminobenzyl)-5-methyl-1H-imidazole (1.44 g) as colorless prism crystals. melting point: 137-138° C.

reactant | 4-ethyl-1H-imidazole | 2.46 g | C(C)C=1N=CNC1 | C5H8N2
reactant | 4-nitrobenzyl bromide | 6.08 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | potassium carbonate | 7.08 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-ethyl-1-(4-nitrobenzyl)-1H-imidazole | 1.95 g | C(C)C=1N=CN(C1)CC1=CC=C(C=C1)[N+](=O)[O-] | C12H13N3O2
